US09428452B2
N-(2,4-dimethylphenyl)-3-hydroxy-4-(2-hydroxy-1-morpholinoethyl)-N-isobutylbenzenesulfonamide
To a stirred solution of N-(2,4-dimethylphenyl)-3-hydroxy-N-isobutyl-4-(oxiran-2-yl)benzenesulfonamide (60 mg, 0.160 mmol) in ethanol (1 mL) at 25° C. was added morpholine (30.6 mg, 0.352 mmol) and the reaction mixture stirring at 50° C. for 12 hours. The reaction mixture was then concentrated in vacuo and purified by mass directed autoprep (ammonium carbonate modifier). The relevant fractions were concentrated under a stream of nitrogen to give a single regioisomer of the desired product, 11.2 mg. LCMS [LCMS2] Rt 1.25 min, m/z (ES+) 463 (M+H).

reactant | N-(2,4-dimethylphenyl)-3-hydroxy-N-isobutyl-4-(oxiran-2-yl)benzenesulfonamide | 0.160 mmol, 60 mg | CC1=C(C=CC(=C1)C)N(S(=O)(=O)C1=CC(=C(C=C1)C1OC1)O)CC(C)C | C20H25NO4S
reactant | morpholine | 0.352 mmol, 30.6 mg | N1CCOCC1 | C4H9NO
solvent | ethanol | 1 mL | C(C)O | C2H6O
product | N-(2,4-dimethylphenyl)-3-hydroxy-4-(2-hydroxy-1-morpholinoethyl)-N-isobutylbenzenesulfonamide | CC1=C(C=CC(=C1)C)N(S(=O)(=O)C1=CC(=C(C=C1)C(CO)N1CCOCC1)O)CC(C)C | C24H34N2O5S
